US07384967B2
To a solution of 4-chloromethyl-thiazol-2-ylamine (7.45 g, 50.0 mmol) in dioxane:water mixture (8:2) was added sodium azide (4.87 g, 75.0 mmol) and the reaction mixture was refluxed for 2–3 h. The mixture was concentrated in vacuo to remove all dioxane and the residue was dissolved in EtOAc (200 mL). The organic layer was washed with water (2×200 mL), brine (2×200 mL), dried over (Na2SO4) and concentrated in vacuo to give 4-azidomethyl-thiazol-2-ylamine in 70–90% yield.

reactant | 4-chloromethyl-thiazol-2-ylamine | 50.0 mmol, 7.45 g | ClCC=1N=C(SC1)N | C4H5ClN2S
reactant | water | O | H2O
reactant | sodium azide | 75.0 mmol, 4.87 g | [N-]=[N+]=[N-].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-azidomethyl-thiazol-2-ylamine | 70–90% yield | N(=[N+]=[N-])CC=1N=C(SC1)N | C4H5N5S
